### ISSUE TITLE
Proof obligation for `prime_101 ` in `ArkLib/ToMathlib/NumberTheory/PrattCertificate.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/ArkLib#166]
A proof in `ArkLib/ToMathlib/NumberTheory/PrattCertificate.lean` contains a `sorry`.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/ArkLib/blob/master/ArkLib/ToMathlib/NumberTheory/PrattCertificate.lean#L200)

**Code Snippet:**
```lean
theorem prime_101 : Nat.Prime 101 := by
  refine PrattCertificate.out ⟨2, by reduce_mod_char, ?_⟩
  refine .split 4 25 ?_ ?_ (by norm_num)
  · refine .prime 2 2 _ ?_ (by reduce_mod_char; decide) (by norm_num)
    exact Nat.prime_two
  · refine .prime 5 2 _ ?_ (by reduce_mod_char; decide) (by norm_num)
    refine PrattCertificate.out ⟨2, by reduce_mod_char, ?_⟩
    refine .prime 2 2 _ ?_ (by reduce_mod_char; decide) (by norm_num)
    exact Nat.prime_two

-- theorem prime_987654319 : Nat.Prime 987654319 := sorry
```
